US07268231B2
A suspension of 2-amino-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester (93.2 mg, 0.40 mmol), 2-trifluoromethyl-benzylbromide (95.6 mg, 0.40 mmol) and K2CO3 (83.01 mg, 0.60 mmol) in acetonitrile (10 mL) was heated to reflux under argon for 1 hr. Cooled to r.t. and the reaction mixture was partitioned between EtOAc and water. The organic layer was dried over Na2SO4 and concentrated to give a residue which was triturated with EtOAc and filtered to give 4-oxo-2-(2-trifluoromethyl-benzylamino)-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester as a white solid (75.0 mg, 48.1%).

reactant | 2-amino-4-oxo-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester | 0.40 mmol, 93.2 mg | C(C1=CC=CC=C1)OC(=O)N1C(=NC(C1)=O)N | C11H11N3O3
reactant | 2-trifluoromethyl-benzylbromide | 0.40 mmol, 95.6 mg | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
reactant | K2CO3 | 0.60 mmol, 83.01 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-oxo-2-(2-trifluoromethyl-benzylamino)-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester | 75.0 mg, 48.1% | C(C1=CC=CC=C1)OC(=O)N1C(=NC(C1)=O)NCC1=C(C=CC=C1)C(F)(F)F | C19H16F3N3O3
